US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(propan-2-ylsulfonyl)pyrrolidin-3-yl]benzamide
The title compound was prepared as described in Example 557C, substituting propane-2-sulfonyl chloride for propane-2-sulfonyl chloride and N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(pyrrolidin-3-yl)benzamide for 4-(azetidin-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide. 1H NMR (501 MHz, DMSO-d6) δ ppm 9.04 (t, J=6.0 Hz, 1H), 8.47 (d, J=6.9 Hz, 1H), 7.87 (m, 3H), 7.50 (d, J=1.2 Hz, 1H), 7.43 (m, 2H), 7.37 (s, 1H), 6.84 (dd, J=7.0, 1.6 Hz, 1H), 4.49 (d, J=5.9 Hz, 2H), 3.77 (m, 1H), 3.52 (m, 2H), 3.42 (m, 2H), 3.25 (m, 1H), 2.30 (m, 1H), 2.04 (m, 1H), 1.25 (dd, J=6.8, 1.4 Hz, 6H); MS (ESI(+)) m/e 427 (M+H)+.

reactant | propane-2-sulfonyl chloride | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(pyrrolidin-3-yl)benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CNCC2)=O | C19H20N4O
reactant | 4-(azetidin-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide | N1CC(C1)C1=CC=C(C(=O)NCC2=CC=3N(C=C2)C=CN3)C=C1 | C18H18N4O
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(propan-2-ylsulfonyl)pyrrolidin-3-yl]benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CN(CC2)S(=O)(=O)C(C)C)=O | C22H26N4O3S
